US07329656B2
A mixture of 2-hydroxy-5-nitropyridine (50.0 g, 0.358 mol) and water (7 L) was warmed to 40° C. and bromine (21.1 mL, 0.393 mol) was added dropwise over ˜20 min. After stirring at 40° C. for 2.5 h, the mixture was cooled to 10° C. and the crude product was isolated by filtration. The solid was washed with water and dried in vacuo to give 3-bromo-2-hydroxy-5-nitropyridine as a solid (70.0 g, 90% yield). mp 212-214° C. (with decomposition); 1H NMR (CD3OD) δ 8.66 (d, J=2.9 Hz, 1H), 8.64 (d, J=2.9 Hz, 1H).

reactant | 2-hydroxy-5-nitropyridine | 0.358 mol, 50.0 g | OC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O3
reactant | bromine | 0.393 mol, 21.1 mL | BrBr | Br2
solvent | water | 7 L | O | H2O
product | 3-bromo-2-hydroxy-5-nitropyridine | 70.0 g, 90% yield | BrC=1C(=NC=C(C1)[N+](=O)[O-])O | C5H3BrN2O3
